US08222416B2
A mixture of 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-ethanesulfinyl-1H-pyrrolo[2,3-b]pyridine (56 mg, 0.096 mmol) and a solution of tetrabutylammonium fluoride in tetrahydrofuran (1 M, 3.85 mL, 3.85 mmol) was stirred for 12 h at room temperature. The mixture was poured into brine (5 mL), extracted with ethyl acetate (2×20 mL), washed with a saturated aqueous ammonium chloride solution (3×10 mL), dried over anhydrous sodium sulfate and then concentrated in vacuo to give 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-ethanesulfinyl-1H-pyrrolo[2,3-b]pyridine (37 mg, 88%) as a solid which was used in the next step without purification: LC/MS m/e calcd for C23H26N2O3S2 [M+H]+ 443.6, observed 443.1.

reactant | 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-ethanesulfinyl-1H-pyrrolo[2,3-b]pyridine | 0.096 mmol, 56 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)S(=O)CC)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C29H30N2O5S3
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 3.85 mmol, 1 M, 3.85 mL | O1CCCC1 | C4H8O
solvent | brine | 5 mL | [Cl-].[Na+].O
product | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-ethanesulfinyl-1H-pyrrolo[2,3-b]pyridine | 37 mg, 88% | C1(CCCC1)C=C(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)S(=O)CC)N1 | C23H26N2O3S2
